US06028195
1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyridin-3-yl)thiocarbamate(200 mg, 0.7 mmol) and 1-(3,5-dimethylphenyl)piperazine(154 mg 0.7 mmol) were dissolved in anhydrous tetrahydrofuran and DBU(106 mg) was added thereto. The mixture was stirred at room temperature for 2 hours and concentrated under the reduced pressure to remove the solvent. The concentrate was purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyridin-3-yl)thiocarbamate | 0.7 mmol, 200 mg | CC=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=S | C15H16N2O2S
reactant | 1-(3,5-dimethylphenyl)piperazine | 0.7 mmol, 154 mg | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
reactant | DBU | 106 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 50% | CC=1C=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C21H28N4OS
